US07094908B2
Ethyl 3-(1,3-dioxo-1,3-dihydro-benzo[e]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.55 g, 73%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.40 g, 1.97 mmol) and 1,2-naphthalic anhydride (0.51 g, 2.56 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.97 mmol, 0.40 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 1,2-naphthalic anhydride | 2.56 mmol, 0.51 g | C1=CC=C2C(=C1)C=CC3=C2C(=O)OC3=O | C12H6O3
product | Ethyl 3-(1,3-dioxo-1,3-dihydro-benzo[e]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | O=C1N(C(C=2C=CC3=C(C12)C=CC=C3)=O)CC(C(=O)OCC)C3(OCCO3)C | C21H21NO6
